US04846880
A reaction vessel was charged with acetonitrile which was held under a nitrogen blanket. With the reaction vessel cooled in an ice bath, stannic chloride was added gradually below the surface of the acetonitrile with stirring over a period of 2 hours 20 minutes. During the addition period, the temperature of the reaction mixture varied between 3° C. and 39° C. The mixture was allowed to stand overnight at room temperature. With the reaction mixture at 22° C., α-methylphenethyl chloride was added in increments to the reaction vessel over a ten-minute period. With the mixture under reduced pressure and heated, acetonitrile nitrile was gradually stripped from the mixture. The reaction mixture, milky in color, was heated to reflux. The reaction mixture was maintained at reflux for about 61/2 hours. With the temperature of the reaction mixture at about 75° C., the entire amount of previously-stripped acetonitrile was added back to the reaction mixture. The mixture was allowed to cool, stand overnight and was observed to contain a slurry. Methylene chloride was added to the mixture. Then, this mixture was added with stirring to 10% sodium hydroxide previously cooled to about 10° C. The temperature of the mixture reached 40° C. and the mixture was found to be acidic. More 10% sodium hydroxide was added to make the mixture alkaline. The organic phase was separated and washed with water. The organic phase was dried over sodium sulfate, filtered and stripped on a rotary evaporator at a temperature of 35°-40° C. to provide 1,3-dimethyl-3,4-dihyroisoquinoline. An autoclave was charged with a slurry of 50%-wetted 5% palladium-on-carbon catalyst in absolute ethanol. Then, there was added to the slurry a mixture of 1,3-dimethyl-3,4-dihydroisoquinoline. The autoclave was flushed with hydrogen gas. With the reaction mixture being stirred, the autoclave was gradually pressurized with hydrogen over a period of about two hours to a final pressure of about 185 psi (12.5 atm; 12.6×105Pascal) and temperature of about 50° C. The autoclave was maintained in this pressurized condition overnight. The temperature of the autoclave dropped to about 10° C. after venting with stirring of the reaction mixture. The mixture was filtered and stripped of ethanol to provide 1,3-dimethyl-1,2,3,4-tetrahydroisoquinoline. A reaction vessel was charged with 2.5 g of 1,3-dimethyl-1,2,3,4-tetrahydroisoquinoline, 20 ml 10% sodium hydroxide and 50 ml methylene chloride. With this mixture stirred, 1.1 equivalents dichloro-acetyl chloride was added dropwise to the mixture. The mixture was stirred for 20 minutes, then water was added. The organic extract was dried with magnesium sulfate, and stripped of solvent, and then subjected to Kugelrohr distillation (150° C. @ 0.1 mm Hg) to provide 2.5 g of a yellow oil product having the following elemental analysis:

reactant | acetonitrile | C(C)#N | C2H3N
reactant | α-methylphenethyl chloride | CC(CC1=CC=CC=C1)Cl | C9H11Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,3-dimethyl-3,4-dihyroisoquinoline | CC1=NC(CC2=CC=CC=C12)C | C11H13N
